US09428490B2
Synthesis of (Z)-6,7-dihydro-5H-cyclopenta[b]pyridin-5-one oxime
In a 100-mL, 3N round-bottomed flask 6,7-dihydro-5H-cyclopenta[b]pyridin-5-one (2.0 g, 1.0 eq.) was dissolved in EtOH (24.0 mL) and H2O (6.0 mL) at RT. Then Sodium acetate trihydrate (8.175 g, 4.0 eq.) and Hydroxylamine hydrochloride (4.174 g, 4.0 eq.) were added at the same temperature. The progress of the reaction was followed by TLC analysis on TLC with 5% Methanol: dichloromethane with ammonia atmosphere as mobile phase and visualization with U.V light. The reaction mixture was quenched in 50 mL water and extracted by dichloromethane. Organic layer was concentrated by rotary evaporation (35° C., 20 mmHg) to afford 2.10 g of crude compound which was used in the next step without purification.

reactant | 6,7-dihydro-5H-cyclopenta[b]pyridin-5-one | 2.0 g, 1.0 eq. | N1=C2C(=CC=C1)C(CC2)=O | C8H7NO
reactant | Sodium acetate trihydrate | 8.175 g, 4.0 eq. | O.O.O.C(C)(=O)[O-].[Na+]
reactant | Hydroxylamine hydrochloride | 4.174 g, 4.0 eq. | Cl.NO
reactant | ammonia | N | H3N
solvent | EtOH | 24.0 mL | CCO | C2H6O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | Methanol | CO | CH4O
solvent | H2O | 6.0 mL | O | H2O
product | (Z)-6,7-dihydro-5H-cyclopenta[b]pyridin-5-one oxime | 2.10 g | N1=C2C(=CC=C1)\C(\CC2)=N/O | C8H8N2O
